US03952006
[b] A mixture of 20 g of 5-o-chlorophenyl-7-ethyl-1,2-dihydro-3H-thieno[2,3-e][1,4]diazepine-2-thione and 9.6 g of aminoacetaldehyde diethylacetal is added to 200 ml of ethanol, and the whole mixture is refluxed for 2.5 hours. While the reaction mixture is hot, an activated carbon is added to the reaction mixture. The whole mixture is filtered and the filtrate is cooled. The crystals formed are collected by suction filtration and washed with a small amount of ethanol to give 23 g of 5-o-chlorophenyl-2-(2,2-diethoxyethylamino)-7-ethyl-3H-thieno[ 2,3-e][1,4]diazepine melting at 143° - 146°C.

reactant | 5-o-chlorophenyl-7-ethyl-1,2-dihydro-3H-thieno[2,3-e][1,4]diazepine-2-thione | 20 g | ClC1=C(C=CC=C1)C=1C2=C(NC(CN1)=S)SC(=C2)CC | C15H13ClN2S2
reactant | aminoacetaldehyde diethylacetal | 9.6 g | C(C)OC(CN)OCC | C6H15NO2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 5-o-chlorophenyl-2-(2,2-diethoxyethylamino)-7-ethyl-3H-thieno[ 2,3-e][1,4]diazepine | 23 g | ClC1=C(C=CC=C1)C=1C2=C(N=C(CN1)NCC(OCC)OCC)SC(=C2)CC | C21H26ClN3O2S
